US08211908B2
To a solution of 0.30 g of tert-butyl((7-oxo-7,8-dihydro-1,8-naphthyridin-2-yl)methyl)(1-(trifluoroacetyl)piperidin-4-yl)carbamate in 40 mL of methanol, 0.10 g of 10% palladium-carbon was added, and the mixture was stirred at 45 to 50° C. for 9 hours 30 minutes under a hydrogen atmosphere. The reaction mixture was cooled to room temperature, the insoluble substance was filtered off, and the filtration residue was washed with methanol. The solvent was distilled off under reduced pressure, and the resultant residue was purified by silica gel column chromatography using an eluent of chloroform:methanol=100:3 to obtain 0.18 g of tert-butyl((7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)methyl)(1-(trifluoroacetyl)piperidin-4-yl)carbamate as a colorless foam.

reactant | tert-butyl((7-oxo-7,8-dihydro-1,8-naphthyridin-2-yl)methyl)(1-(trifluoroacetyl)piperidin-4-yl)carbamate | 0.30 g | C(C)(C)(C)OC(N(C1CCN(CC1)C(C(F)(F)F)=O)CC1=NC=2NC(C=CC2C=C1)=O)=O | C21H25F3N4O4
solvent | methanol | 40 mL | CO | CH4O
catalyst | palladium-carbon | 0.10 g | [C].[Pd]
product | tert-butyl((7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)methyl)(1-(trifluoroacetyl)piperidin-4-yl)carbamate | 0.18 g | C(C)(C)(C)OC(N(C1CCN(CC1)C(C(F)(F)F)=O)CC1=NC=2NC(CCC2C=C1)=O)=O | C21H27F3N4O4
